US07960369B2
N-propyl-4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-amine hydrobromide
A mixture of 2-bromo-1-[4-(trifluoromethyl)phenyl]ethanone (5.34 g), N-propylthiourea (2.60 g) and ethanol (50 mL) was stirred for 1 hr while heating under reflux. The reaction mixture was cooled and diluted with isopropyl ether. The precipitated solid was collected by filtration, washed with isopropyl ether and dried to give the title compound (5.11 g, yield 70%) as colorless crystals.

reactant | 2-bromo-1-[4-(trifluoromethyl)phenyl]ethanone | 5.34 g | BrCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6BrF3O
reactant | N-propylthiourea | 2.60 g | C(CC)NC(=S)N | C4H10N2S
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-propyl-4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-amine hydrobromide | 5.11 g, yield 70% | Br.C(CC)NC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C13H13F3N2S.BrH/c1-2-7-17-12-18-11(8-19-12)9-3-5-10(6-4-9)13(14,15)16;/h3-6,8H,2,7H2,1H3,(H,17,18);1H
